US05607936
To a solution of 2-(S)-(3,4-dichlorophenyl)-pent-4-enoic acid (5.04 g, 20.6 mmol) in 60 mL of dichloromethane was added 2.15 mL (24.6 mmol) of oxalyl chloride and 0.1 mL of dimethylformamide with cooling in an ice-water bath. The cooling bath was then removed and the reaction mixture was stirred at rt overnight. The solvent was removed under reduced pressure, and the resulting material was diluted in ethyl acetate and concentrated in vacuo in order to remove residual HCl. The residual crude acid chloride was dissolved in 70 mL of ether and was slowly added to a 100 mL ether solution of diazomethane (77 mmol). After stirring for 2 hr at rt, the solvent was removed under vacuum. The resulting yellow oil was chromatographed on silica gel column eluting with a gradient of hexane:ethyl acetate=20:1 to 3:1 to give 4.66 g (84%) of diazomethyl-(2-(S)-(3,4-dichlorophenyl)-pent-4-enyl)-ketone.

reactant | 2-(S)-(3,4-dichlorophenyl)-pent-4-enoic acid | 20.6 mmol, 5.04 g | ClC=1C=C(C=CC1Cl)[C@@H](C(=O)O)CC=C | C11H10Cl2O2
reactant | oxalyl chloride | 24.6 mmol, 2.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
reactant | diazomethane | 77 mmol | [N+](=[N-])=C | CH2N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | ether | 100 mL | CCOCC | C4H10O
product | diazomethyl-(2-(S)-(3,4-dichlorophenyl)-pent-4-enyl)-ketone | 4.66 g, 84% | [N+](=[N-])=CC(=O)C[C@H](CC=C)C1=CC(=C(C=C1)Cl)Cl | C13H12Cl2N2O
